US08022073B2
70 mg of sodium hydride (55% oil dispersion) was added to 1 ml of N,N-dimethylformamide (hereinafter, described as DMF) To this was added 0.17 g of 3,5-dimethylpyrazole, and the mixture was stirred for 1 hour at room temperature. To the resultant mixture was added a solution of 0.15 g of 4-chloro-5-(4-chlorophenyl)-3,6-dimethylpyridazine in 2 ml of DMF, and the mixture was stirred for 7 hours on an oil bath of 60° C. To the reaction mixture was added ethyl acetate and the mixture was washed with brine five times. The organic layer was dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. To 0.33 g of the resultant residue was added 50 ml of ethyl acetate, and washed with 50 ml of 1 mol/L hydrochloric acid and brine sequentially, and dried over anhydrous magnesium sulfate, then, concentrated under reduced pressure. 0.21 g of the resultant residue was subjected to silica gel column chromatography, to obtain 0.12 g of 5-(4-chloro-phenyl)-4-(3,5-dimethyl-1-pyrazolyl)-3,6-dimethylpyridazine (hereinafter, described as compound (3) of the present invention).

reactant | sodium hydride | 70 mg | [H-].[Na+]
reactant | 3,5-dimethylpyrazole | 0.17 g | CC1=NNC(=C1)C | C5H8N2
reactant | 4-chloro-5-(4-chlorophenyl)-3,6-dimethylpyridazine | 0.15 g | ClC1=C(N=NC(=C1C1=CC=C(C=C1)Cl)C)C | C12H10Cl2N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-(4-chloro-phenyl)-4-(3,5-dimethyl-1-pyrazolyl)-3,6-dimethylpyridazine | 0.12 g | ClC1=CC=C(C=C1)C=1C(=C(N=NC1C)C)N1N=C(C=C1C)C | C17H17ClN4
